US04592866
7-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one
A sample of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5-(4H)-one hydrochloride (10 g, 136 mole) was dissolved in dimethylformamide (150 ml) and heated to reflux. Sulfuryl chloride (20 g, 0.148 mole) was then added dropwide over a period of 40-50 minutes. The reaction was allowed to stir at reflux for 30 minutes following the addition of SO2CL2. After cooling, the contents of the flask were partitioned between water (150 ml) and benzene (150 ml). The benzene layer was saved and the water layer extracted with an additional amount of benzene (2×50 ml). The benzene extracts were combined and washed with dilute aqueous potassium hydroxide (2×50 ml) followed by dilute aqueous hydrochloric acid (2×50 ml). The benzene layer was dried over sodium sulfate and concentrated by rotary evaporation (~70° C., water aspirator) yielding 2.61 g of the crude material. The crude material was recrystallized from isopropyl ether giving 1.25 g (12.6%) of off-white crystals, m.p. 78°-79° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepin-5-(4H)-one hydrochloride | 136 mole, 10 g | Cl.ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2
reactant | Sulfuryl chloride | 0.148 mole, 20 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one | 2.61 g | ClC1=CC=2C(N(CC(OC2N=C1)CCCl)C)=O | C11H12Cl2N2O2
